US04769366
By working as in Example 2, but starting with 1-phenyl-3-(1-piperazinyl)-7H-pyrrolo[1,2-a]azepin-7-one (3.05 g), α-bromo-p-toluonitrile (2.35 g) and 4-dimethylaminopyridine (1.48 g) in solution in chloroform (80 cc), 3-[4-(4-cyanobenzyl)-1-piperazinyl]-1-phenyl-7H-pyrrolo[1,2-a]azepin-7-one (0.54 g), m.p. 196° C., is obtained after recrystallization in ethanol (25 cc).

reactant | 1-phenyl-3-(1-piperazinyl)-7H-pyrrolo[1,2-a]azepin-7-one | 3.05 g | C1(=CC=CC=C1)C=1C=C(N2C1C=CC(C=C2)=O)N2CCNCC2 | C19H19N3O
reactant | α-bromo-p-toluonitrile | 2.35 g | BrCC1=CC=C(C=C1)C#N | C8H6BrN
catalyst | 4-dimethylaminopyridine | 1.48 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | chloroform | 80 cc | C(Cl)(Cl)Cl | CHCl3
product | 3-[4-(4-cyanobenzyl)-1-piperazinyl]-1-phenyl-7H-pyrrolo[1,2-a]azepin-7-one | 0.54 g | C(#N)C1=CC=C(CN2CCN(CC2)C2=CC(=C3N2C=CC(C=C3)=O)C3=CC=CC=C3)C=C1 | C27H24N4O
